US06762320B2
a) 2-(3-Fluoro-benzyloxy)-5-nitro-benzaldehyde
Prepared in analogy to example 8 from 2-hydroxy-5-nitrobenzaldehyde and 3-fluoro-benzylbromide. Colorless solid. Yield=95%. MS: m/e=275.1 (M+).

reactant | 2-hydroxy-5-nitrobenzaldehyde | OC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H5NO4
reactant | 3-fluoro-benzylbromide | FC=1C=C(CBr)C=CC1 | C7H6BrF
product | 2-(3-Fluoro-benzyloxy)-5-nitro-benzaldehyde | Yield=95% | FC=1C=C(COC2=C(C=O)C=C(C=C2)[N+](=O)[O-])C=CC1 | C14H10FNO4
